US04057636
By following the procedure of Example 1, but substituting N-(1,1-dimethylbutyl)-N'-3-pyridylcarbodiimide for the N-tert-butyl-N'-3-pyridylcarbodiimide, the N"-cyano-N-(1,1-dimethylbutyl)-N'-3-pyridylguanidine was obtained with a melting point of 188.0°-188.5° C.

reactant | N-(1,1-dimethylbutyl)-N'-3-pyridylcarbodiimide | CC(CCC)(C)N=C=NC=1C=NC=CC1 | C12H17N3
reactant | N-tert-butyl-N'-3-pyridylcarbodiimide | C(C)(C)(C)N=C=NC=1C=NC=CC1 | C10H13N3
product | N"-cyano-N-(1,1-dimethylbutyl)-N'-3-pyridylguanidine | C(#N)N=C(NC(CCC)(C)C)NC=1C=NC=CC1 | C13H19N5
